US06005116
(c) 3-Hydroxy-5-(2-trifluoromethylphenyl)isoxazole
α,β-Dibromo-2-trifluoromethylcinnamic acid ethyl ester (17.9 g), hydroxylamine hydrochloride (3.8 g) and sodium hydroxide (9.1 g) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(c) to obtain the title compound (7.6 g, 76%) as colorless crystals.

reactant | α,β-Dibromo-2-trifluoromethylcinnamic acid ethyl ester | 17.9 g | C(C)OC(C(=C(C1=C(C=CC=C1)C(F)(F)F)Br)Br)=O | C12H9Br2F3O2
reactant | hydroxylamine hydrochloride | 3.8 g | Cl.NO
reactant | sodium hydroxide | 9.1 g | [OH-].[Na+]
product | 3-Hydroxy-5-(2-trifluoromethylphenyl)isoxazole | 7.6 g, 76% | OC1=NOC(=C1)C1=C(C=CC=C1)C(F)(F)F | C10H6F3NO2
